### PR TITLE
[Merged by Bors] - feat: a nonarchimedean group is totally disconnected

### PR DESCRIPTION
**Pull request by jouglasheen**
Prove that a nonarchimedean group is a totally disconnected topological space. 

Co-authored-by: Kevin Buzzard <k.buzzard@imperial.ac.uk>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by mbkybky — COMMENTED** [review]
Many variables in theorems should use implicit variables, as they can be derived from other variables. For example, in `open_subgroup_separating`, it should be `{G : Type*} {t : G}`, in `non_empty_intersection_compl_coset`, it should be `{G : Type*} {x y : G} {U : Set G} (hx : x ∈ U) {A : Opens G}`, in `non_empty_intersection_coset`, it should be `{G : Type*} {y : G} {U : Set G}`, and in `non_singleton_set_disconnected`, it should be `{G : Type*} {x y : G} {U : Set G}`.

File: Mathlib/Topology/Algebra/Nonarchimedean/TotallyDisconnected.lean [hunk 1]
```diff
@@ -0,0 +1,123 @@
...
+  use x, hx
+  intro con
+  rw [mem_leftCoset_iff y] at con
+  have mem : (y⁻¹ * x) ∈ (V : Set G) ∩ A := Set.mem_inter con quot
+  have subempty : (V : Set G) ∩ A = ∅ := Disjoint.inter_eq dva
+  rw [subempty] at mem
+  simp at mem
+
+@[to_additive]
+lemma non_empty_intersection_coset (y : G) (U : Set G) (hy :  y ∈ U)
```
[the remark this answers is not in the document]
Comment (jouglasheen) [reply Mathlib/Topology/Algebra/Nonarchimedean/TotallyDisconnected.lean:67]: To move these lemmas to the file for topological groups, should I just put them in a `TopologicalGroup` namespace? 

Thank you very much for reviewing my work!

[the remark this answers is not in the document]
Comment (mbkybky) [reply Mathlib/Topology/Algebra/Nonarchimedean/TotallyDisconnected.lean:67]: > To move these lemmas to the file for topological groups, should I just put them in a `TopologicalGroup` namespace?
> 
> Thank you very much for reviewing my work!

Yes, they should be in the `TopologicalGroup` namespace. If you think this lemma won't be used in the future, you can also choose not to move it to the `TopologicalGroup` file and instead change it to a `private lemma`.

[the remark this answers is not in the document]
Comment (mbkybky) [reply Mathlib/Topology/Algebra/Nonarchimedean/TotallyDisconnected.lean]: > > To move these lemmas to the file for topological groups, should I just put them in a `TopologicalGroup` namespace?
> > Thank you very much for reviewing my work!
> 
> Yes, they should be in the `TopologicalGroup` namespace. If you think this lemma won't be used in the future, you can also choose not to move it to the `TopologicalGroup` file and instead change it to a `private lemma`.

So do you want them to be `private lemma`?

[the remark this answers is not in the document]
Comment (jouglasheen) [reply Mathlib/Topology/Algebra/Nonarchimedean/TotallyDisconnected.lean]: If I change them to private lemma, the `@[to_additive]` tag does not work. Do you have any suggestions?

[the remark this answers is not in the document]
Comment (mbkybky) [reply Mathlib/Topology/Algebra/Nonarchimedean/TotallyDisconnected.lean]: This may be a bug: after setting it as a private lemma, `@[to_additive]` does not transform the Group in the namespace to AddGroup. This causes the lemma name to remain the same after the `@[to_additive]` operation, resulting in an error. I think you can remove the namespace and change the name to something like `non_empty_intersection_group_coset`.

**Comment by loefflerd** [comment]
I only just noticed this PR. It seems several of us (you, me, @pechersky, and possibly more) are thinking along the same lines. To be precise,

- Yakov showed in #17297 (merged) that metric spaces with an ultrametric are totally disco,
- I show in #17262 (awaiting review) that _commutative_ normed groups with an ultrametric norm are nonarchimedean groups,
- you show here that nonarchimedean groups are totally disco.

It seems to me like none of these statements actually imply the other (with the definitions in force in mathlib); and I don't see any obvious way of formulating a more general statement that implies more than one of the above. Still I think it's probably worth us all reading each other's code, and thinking if there's anything in common in the proofs that could profitably be factored out. I'll take a look at your code here later today (I have a long train journey to occupy!)

File: Mathlib/Topology/Algebra/Nonarchimedean/TotallyDisconnected.lean [hunk 2]
```diff
@@ -0,0 +1,122 @@
...
+    fun _ ↦ by apply Set.disjoint_of_subset_right hV disj⟩
+
+end NonarchimedeanGroup.auxiliary
+
+namespace TopologicalGroup
+variable {G : Type*} [TopologicalSpace G] [Group G]
+
+variable {y : G} {U : Set G} in
+@[to_additive]
+lemma non_empty_intersection_coset (hy :  y ∈ U)
```
Comment (mbkybky) [inline Mathlib/Topology/Algebra/Nonarchimedean/TotallyDisconnected.lean:54]:
```suggestion
lemma non_empty_intersection_coset (hy : y ∈ U)
```

File: Mathlib/Topology/Algebra/Nonarchimedean/TotallyDisconnected.lean [hunk 3]
```diff
@@ -0,0 +1,122 @@
...
+open NonarchimedeanGroup.auxiliary TopologicalGroup
+
+variable {G : Type*} [TopologicalSpace G] [Group G]
+  [TopologicalGroup G] [NonarchimedeanGroup G] [T2Space G]
+
+variable {x y : G} {U : Set G} in
+/-- In a nonarchimedean group, any set which contains two distinct points is disconnected. -/
+@[to_additive]
+theorem non_singleton_set_disconnected
+    (hx : x ∈ U) (hy :  y ∈ U) (hxy : y ≠ x) : ¬ IsConnected U := by
```
Comment (mbkybky) [inline Mathlib/Topology/Algebra/Nonarchimedean/TotallyDisconnected.lean:88]:
```suggestion
    (hx : x ∈ U) (hy : y ∈ U) (hxy : y ≠ x) : ¬ IsConnected U := by
```

File: Mathlib/Topology/Algebra/Nonarchimedean/TotallyDisconnected.lean [hunk 4]
```diff
@@ -0,0 +1,122 @@
...
+  rw [subempty] at mem
+  simp at mem
+
+end TopologicalGroup
+
+namespace NonarchimedeanGroup
+open NonarchimedeanGroup.auxiliary TopologicalGroup
+
+variable {G : Type*} [TopologicalSpace G] [Group G]
+  [TopologicalGroup G] [NonarchimedeanGroup G] [T2Space G]
```
Comment (mbkybky) [inline Mathlib/Topology/Algebra/Nonarchimedean/TotallyDisconnected.lean:82]:
```suggestion
variable {G : Type*} [TopologicalSpace G] [Group G] [NonarchimedeanGroup G] [T2Space G]
```

File: Mathlib/Topology/Algebra/Nonarchimedean/TotallyDisconnected.lean [hunk 5]
```diff
@@ -0,0 +1,122 @@
...
+theorem non_singleton_set_disconnected
+    (hx : x ∈ U) (hy :  y ∈ U) (hxy : y ≠ x) : ¬ IsConnected U := by
+  obtain ⟨A , V, ha, _ , dav⟩ : ∃ (A : Opens G) (V : OpenSubgroup G), y⁻¹ * x ∈ A ∧ 1 ∈ V ∧
+          Disjoint (A : Set G) V := by
+    have ht : y⁻¹ * x ≠ 1 := by
+        by_contra! con
+        rw [← inv_mul_cancel y] at con
+        apply mul_left_cancel at con
+        exact hxy (id (Eq.symm con))
+    exact open_subgroup_separating ht
```
Comment (mbkybky) [inline Mathlib/Topology/Algebra/Nonarchimedean/TotallyDisconnected.lean:96]:
```suggestion
      Disjoint (A : Set G) V :=
    open_subgroup_separating (((mul_right_injective y⁻¹).ne_iff' (inv_mul_cancel y)).mpr hxy.symm)
```

File: Mathlib/Topology/Algebra/Nonarchimedean/TotallyDisconnected.lean [hunk 6]
```diff
@@ -0,0 +1,122 @@
...
+    (quot : (y⁻¹ * x) ∈ A ) (V : OpenSubgroup G) (dva : Disjoint (V : Set G) A) :
+    (U ∩ ((y • (V : Set G))ᶜ)).Nonempty := by
+  simp_rw [Set.inter_nonempty, Set.mem_compl_iff]
+  use x, hx
+  intro con
+  rw [mem_leftCoset_iff y] at con
+  have mem : (y⁻¹ * x) ∈ (V : Set G) ∩ A := Set.mem_inter con quot
+  have subempty : (V : Set G) ∩ A = ∅ := Disjoint.inter_eq dva
+  rw [subempty] at mem
+  simp at mem
```
Comment (mbkybky) [inline Mathlib/Topology/Algebra/Nonarchimedean/TotallyDisconnected.lean:74]:
```suggestion
  simp [Disjoint.inter_eq dva] at mem
```

**Review by loefflerd — COMMENTED** [review]
I spent a while carefully reading this step-by-step as my train rolled through the Alps, and wrote a whole load of very detailed comments.

Ironically, as I was reviewing the very last declaration, I realised that the whole thing can be done a bit differently. The point is that `TotallyDisconnectedSpace` is implied by `TotallySeparatedSpace`, and `TotallySeparatedSpace` is actually **easier** to prove for nonarchimedean groups. So you can just do this straight after `open_subgroup_separating`:
```lean
@[to_additive]
instance instTotallySeparated : TotallySeparatedSpace G where
  isTotallySeparated_univ x _ y _ hxy := by
    rcases open_subgroup_separating (hxy ∘ inv_mul_eq_one.mp) with ⟨A, V, hA, -, hAV⟩
    refine ⟨_, _, V.isOpen.smul x, (V.isClosed.smul x).isOpen_compl, mem_own_leftCoset ..,
        ?_, (Set.union_compl_self _).ge, Set.disjoint_compl_right_iff_subset.mpr (le_refl _)⟩
    rw [Set.mem_compl_iff, mem_leftCoset_iff]
    exact Set.disjoint_left.mp hAV hA
```
This means the other lemmas in this file aren't needed any more for the totally-disconnected proof. Do you have specific reasons for wanting the other lemmas from this file for other downstream PR's? In any case I've left my comments on them here in case you find the general style guidance there useful, even if the code itself doesn't end up getting merged.

**Comment by loefflerd** [comment]
Thinking a little further about this: the argument becomes more natural if we assume only that G is T1, not T2, because then the output of the separation axioms gives us exactly what we need, rather than stronger but more complicated information which we have to unpack. 

I'm not sure if this is actually any more general (it wouldn't surprise me if T1 and T2 are equivalent under our assumptions) but it makes the argument far shorter:

```
namespace NonarchimedeanGroup

variable {G : Type*} [TopologicalSpace G] [Group G] [NonarchimedeanGroup G] [T1Space G]

@[to_additive] instance instTotallySeparated : TotallySeparatedSpace G where
  isTotallySeparated_univ x _ y _ hxy := by
    obtain ⟨V, h⟩ := is_nonarchimedean _ (isOpen_ne.mem_nhds (Ne.symm (inv_mul_eq_one.not.mpr hxy)))
    refine ⟨_, _, V.isOpen.smul x, (V.isClosed.smul x).isOpen_compl, mem_own_leftCoset ..,
      ?_, (Set.union_compl_self _).ge, Set.disjoint_compl_right_iff_subset.mpr (le_refl _)⟩
    simpa only [Set.mem_compl_iff, mem_leftCoset_iff] using fun a ↦ h a rfl

example : TotallyDisconnectedSpace G := inferInstance -- works

end NonarchimedeanGroup
```

**Comment by mbkybky** [comment]
> Thinking a little further about this: the argument becomes more natural if we assume only that G is T1, not T2, because then the output of the separation axioms gives us exactly what we need, rather than stronger but more complicated information which we have to unpack.
> 
> I'm not sure if this is actually any more general (it wouldn't surprise me if T1 and T2 are equivalent under our assumptions) (EDIT: yes, they are), but it makes the argument far shorter:
> 
> ```
> namespace NonarchimedeanGroup
> 
> variable {G : Type*} [TopologicalSpace G] [Group G] [NonarchimedeanGroup G] [T1Space G]
> 
> @[to_additive] instance instTotallySeparated : TotallySeparatedSpace G where
>   isTotallySeparated_univ x _ y _ hxy := by
>     obtain ⟨V, h⟩ := is_nonarchimedean _ (isOpen_ne.mem_nhds (Ne.symm (inv_mul_eq_one.not.mpr hxy)))
>     refine ⟨_, _, V.isOpen.smul x, (V.isClosed.smul x).isOpen_compl, mem_own_leftCoset ..,
>       ?_, (Set.union_compl_self _).ge, Set.disjoint_compl_right_iff_subset.mpr (le_refl _)⟩
>     simpa only [Set.mem_compl_iff, mem_leftCoset_iff] using fun a ↦ h a rfl
> 
> example : TotallyDisconnectedSpace G := inferInstance -- works
> 
> end NonarchimedeanGroup
> ```

Any topological group is a regular space by [TopologicalGroup.regularSpace](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/Group/Basic.html#TopologicalGroup.regularSpace), so if it is a T0 space, then it is a T3 space. Therefore, as long as the version for `T2Space` is proven, the version for `T0Space` can be directly obtained via `inferInstance`.

````lean
local instance (G : Type*) [TopologicalSpace G] [Group G] [NonarchimedeanGroup G] [T2Space G] :
    TotallyDisconnectedSpace G := sorry

instance (G : Type*) [TopologicalSpace G] [Group G] [NonarchimedeanGroup G] [T1Space G] :
    TotallyDisconnectedSpace G := inferInstance
````

**Comment by jouglasheen** [comment]
> I only just noticed this PR. It seems several of us (you, me, @pechersky, and possibly more) are thinking along the same lines. To be precise,
> 
> * Yakov showed in [[Merged by Bors] - feat(MetricSpace/Ultra): `TotallyDisconnectedSpace X` when X is ultrametric #17297](https://github.com/leanprover-community/mathlib4/pull/17297) (merged) that metric spaces with an ultrametric are totally disco,
> * I show in [feat (Analysis/Normed/Group): ultrametric normed groups are nonarchimedean #17262](https://github.com/leanprover-community/mathlib4/pull/17262) (awaiting review) that _commutative_ normed groups with an ultrametric norm are nonarchimedean groups,
> * you show here that nonarchimedean groups are totally disco.
> 
> It seems to me like none of these statements actually imply the other (with the definitions in force in mathlib); and I don't see any obvious way of formulating a more general statement that implies more than one of the above. Still I think it's probably worth us all reading each other's code, and thinking if there's anything in common in the proofs that could profitably be factored out. I'll take a look at your code here later today (I have a long train journey to occupy!)

Thanks very much for reviewing my code! I didn't know about the PRs #17297 and #17262. I wrote this PR and the one you previously reviewed in order to state things concerning representation theory of reductive p-adic groups. I had discussed with Yakov the fact that Mathlib is missing a definition of local fields (I was working around this). Do you have any thoughts about how all of our code might work together?

File: Mathlib/Topology/Algebra/Nonarchimedean/TotallyDisconnected.lean [hunk 7]
```diff
@@ -0,0 +1,122 @@
...
+    use (y • (V : Set G)) , (y • (V : Set G))ᶜ
+    simp_rw [(IsOpen.smul (OpenSubgroup.isOpen V) y), isOpen_compl_iff,
+        IsClosed.smul (OpenSubgroup.isClosed V) y,
+        Set.union_compl_self, Set.subset_univ,
+        non_empty_intersection_coset hy V,
+        non_empty_intersection_compl_coset hx ha V dav.symm,
+        Set.inter_compl_self, Set.inter_empty, Set.not_nonempty_empty, not_false_eq_true,
+        and_self]
+  rintro ⟨_, h2⟩
+  exact emptyUuv <| ((((h2 u v ou) ov) Uuv) Uu) Uv
```
[the remark this answers is not in the document]
Comment (jouglasheen) [reply Mathlib/Topology/Algebra/Nonarchimedean/TotallyDisconnected.lean]: Thank you--these are good to know.

**Comment by jouglasheen** [comment]
I tried to rename the file to TotallySeparated.lean, but this failed. How do I do this properly?

**Comment by mbkybky** [comment]
> I tried to rename the file to TotallySeparated.lean, but this failed. How do I do this properly?

You need to modify the file names in `Mathlib.lean` as well.

**Comment by mbkybky** [comment]
By the way, I think you can mention in the docstring that `TotallyDisconnectedSpace` is implied by `TotallySeparatedSpace`.

**Comment by loefflerd** [comment]
> Do you have any thoughts about how all of our code might work together?

I think "very nicely" is the answer :-) There doesn't seem to be any overlap between this and the other two PR's I mentioned, rather they combine together very well (unlike the case with Yakov's PR and mine where there was genuine duplication). It's interesting to hear that you are working towards smooth, admissible, etc reps of LCTD groups, so the "natural example" of G for you is probably GL(2, Qp). It's a beautiful theory, I'm sure you'll have a lot of fun with it. :smile:

As for this PR: I see that you've followed my suggestion to prove "totally separated", and let Lean's typeclass instance machinery deduce "totally disconnected" from that. It's clear that "totally disconnected" will get used more often though, so changing the filename is optional (but Yongle is totally right that the docstring needs updating). 

I did also suggest an alternative layout for the argument (cf comment starting "Thinking a little further about this...", which shortens things slightly by not having the lemma  `exists_openSubgroup_separating` as a separate declaration, but instead folding it into the proof of the instance. I guess the question is: in your view, is `exists_openSubgroup_separating` is only useful as a step towards the totally-separated instance, or might it have other uses beyond the current PR? If it's a one-trick pony, we should fold it into the proof of the instance rather than having a separate lemma. Conversely, if it has other uses, it should have a proper docstring. (Either way is fine with me.)

File: Mathlib/Topology/Algebra/Nonarchimedean/TotallyDisconnected.lean [hunk 8]
```diff
@@ -0,0 +1,58 @@
...
+
+/-!
+# Total separatedness of nonarchimedean groups
+
+In this file, we prove that a nonarchimedean group is a totally separated topological space.
+
+## Main results
+
+- `NonarchimedeanGroup.instTotallySeparated`: A nonarchimedean group is a
+                                                      totally separated topological space.
```
Comment (jcommelin) [inline Mathlib/Topology/Algebra/Nonarchimedean/TotallyDisconnected.lean:17]:
```suggestion
- `NonarchimedeanGroup.instTotallySeparated`:
  A nonarchimedean group is a totally separated topological space.
```
I slightly prefer this formatting.

File: Mathlib/Topology/Algebra/Nonarchimedean/TotallyDisconnected.lean [hunk 9]
```diff
@@ -0,0 +1,58 @@
...
+See Proposition 2.3.9 and Problem 63 in :
+Gouvêa, F. Q. (2020) p-adic Numbers An Introduction. 3rd edition.
+  Cham, Springer International Publishing.
+-/
+
+open Pointwise TopologicalSpace
+
+variable {G : Type*} [TopologicalSpace G] [Group G] [NonarchimedeanGroup G] [T2Space G]
+
+namespace NonarchimedeanGroup.auxiliary
```
Comment (jcommelin) [inline Mathlib/Topology/Algebra/Nonarchimedean/TotallyDisconnected.lean:35]: I don't think this namespace is needed. The lemma can go into the `NonarchimedeanGroup` namespace. (Or you inline it into the instance, as David suggested.)

File: Mathlib/Topology/Algebra/Nonarchimedean/TotallyDisconnected.lean [hunk 10]
```diff
@@ -0,0 +1,58 @@
...
+## Notation
+
+ - `G` : Is a nonarchimedean group.
+ - `V` : Is an open subgroup which is a neighbourhood of the identity in `G`.
+
+## References
+
+See Proposition 2.3.9 and Problem 63 in :
+Gouvêa, F. Q. (2020) p-adic Numbers An Introduction. 3rd edition.
+  Cham, Springer International Publishing.
```
Comment (jcommelin) [inline Mathlib/Topology/Algebra/Nonarchimedean/TotallyDisconnected.lean:28]: I think this is already in `docs/references.bib`, so we can write
```suggestion
See Proposition 2.3.9 and Problem 63 in [F. Q. Gouvêa, *p-adic numbers*][gouvea1997].
```

**Review by alreadydone — COMMENTED** [review]
~~Can you also show the more general result that all ultrametric spaces ([IsUltrametricDist](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/MetricSpace/Ultra/Basic.html#IsUltrametricDist)) is totally separated?~~

~~Sorry, I'm not sure this is correct.~~

**Comment by jouglasheen** [comment]
> Can you also show the more general result that all ultrametric spaces ([IsUltrametricDist](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/MetricSpace/Ultra/Basic.html#IsUltrametricDist)) is totally separated?

Maybe this relates to @loefflerd 's comment (above), regarding PRs  #17297 and #17262 'working together' with this one?

**Comment by jouglasheen** [comment]
> > Do you have any thoughts about how all of our code might work together?
> 
> I think "very nicely" is the answer :-) There doesn't seem to be any overlap between this and the other two PR's I mentioned, rather they combine together very well (unlike the case with Yakov's PR and mine where there was genuine duplication). It's interesting to hear that you are working towards smooth, admissible, etc reps of LCTD groups, so the "natural example" of G for you is probably GL(2, Qp). It's a beautiful theory, I'm sure you'll have a lot of fun with it. 😄
> 
> As for this PR: I see that you've followed my suggestion to prove "totally separated", and let Lean's typeclass instance machinery deduce "totally disconnected" from that. It's clear that "totally disconnected" will get used more often though, so changing the filename is optional (but Yongle is totally right that the docstring needs updating).
> 
> I did also suggest an alternative layout for the argument (cf comment starting "Thinking a little further about this..."), which shortens things slightly by not having the lemma `exists_openSubgroup_separating` as a separate declaration, but instead folding it into the proof of the instance. I guess the question is: in your view, is `exists_openSubgroup_separating` only useful as a step towards the totally-separated instance, or might it have other uses beyond the current PR? If it's a one-trick pony, we should fold it into the proof of the instance rather than having a separate lemma. Conversely, if it has other uses, it should have a proper docstring. (Either way is fine with me.)

Yes! I'm working from Bernshtein and Zelevinskii. 

It seems like a good idea to keep the filename, for advertisement, if "totally disconnected" will be used more often. 

Also in response to Johan's comment, I am keeping the lemma separate, but putting it in the same namespace. Currently, I have no other uses for the lemma, but it seems potentially handy.

**Comment by loefflerd** [comment]
Looks good to me! Thanks for all your work on this, looking forward to the next PR.

maintainer merge

**Comment by alreadydone** [comment]
> all ultrametric spaces (IsUltrametricDist) is totally separated
Opened #17427 for this

File: Mathlib/Topology/Algebra/Nonarchimedean/TotallyDisconnected.lean [hunk 11]
```diff
@@ -0,0 +1,53 @@
...
+
+open Pointwise TopologicalSpace
+
+variable {G : Type*} [TopologicalSpace G] [Group G] [NonarchimedeanGroup G] [T2Space G]
+
+namespace NonarchimedeanGroup
+
+@[to_additive]
+lemma exists_openSubgroup_separating {t : G} (ht : t ≠ 1) :
+    ∃ (A : Opens G) (V : OpenSubgroup G), t ∈ A ∧ 1 ∈ V ∧ Disjoint (A : Set G) V := by
```
Comment (urkud) [inline Mathlib/Topology/Algebra/Nonarchimedean/TotallyDisconnected.lean:39]: You can prove a more precise statement here: if `a ≠ b`, then there exists an open subgroup `V` such that `a * V` and `b * V` are disjoint.

File: Mathlib/Topology/Algebra/Nonarchimedean/TotallyDisconnected.lean [hunk 12]
```diff
@@ -0,0 +1,53 @@
...
+  rcases t2_separation ht with ⟨A, B, open_A, open_B, mem_A, mem_B, disj⟩
+  obtain ⟨V, hV⟩ := is_nonarchimedean B (open_B.mem_nhds mem_B)
+  exact ⟨⟨A, open_A⟩, V, mem_A, one_mem V, disj.mono_right hV⟩
+
+@[to_additive]
+instance instTotallySeparated : TotallySeparatedSpace G where
```
Comment (urkud) [inline Mathlib/Topology/Algebra/Nonarchimedean/TotallyDisconnected.lean:45]: This instance should have reduced priority.
```suggestion
instance (priority := 100) instTotallySeparated : TotallySeparatedSpace G where
```

File: Mathlib/Topology/Algebra/Nonarchimedean/TotallyDisconnected.lean (hunk 11 above)
Comment (jouglasheen) [reply Mathlib/Topology/Algebra/Nonarchimedean/TotallyDisconnected.lean:39]: I am working on this.

**Comment by YaelDillies** [comment]
Thanks!

maintainer merge

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
